US08809342B2
Step C: cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methanone
A mixture of (+/−)-cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methanol (0.440 g, 1.31 mmol) in dichloromethane (4.8 ml), dimethyl sulfoxide (3.7 ml) and triethylamine (0.911 ml, 6.54 mmol) was cooled to 0° C. Sulfur trioxide pyridine complex (0.625 g, 3.92 mmol) was added in portions and the mixture stirred at 0° C. for 1 hour then slowly raised to ambient temperature over 12 hours. The reaction was quenched with water and diluted with diethylether. The aqueous layer was extracted with diethylether and the combined organic layers were washed with brine. The combined organic extracts were dried over magnesium sulfate, filtered and concentrated in vacuo, affording a crude solid. This material was used without further purification.

reactant | (+/−)-cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methanol | 1.31 mmol, 0.440 g | C1(CCCCC1)C(O)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F | C18H19F3N2O
reactant | triethylamine | 6.54 mmol, 0.911 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4.8 ml | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 3.7 ml | CS(=O)C | C2H6OS
product | cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methanone | C1(CCCCC1)C(=O)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F | C18H17F3N2O
